US06479531B1
3-[(2-Cycloheptylmethyl-5-naphthalen-2-yl-1H-pyrrole-3-carbonyl)-amino]-benzoic Acid
The title compound was prepared according to the procedure of Example 1, using 4-cycloheptyl-3-oxo-butyric acid ethyl ester and 2-bromo-1-naphthalen-2-yl-ethanone instead of 4-adamantan-1-yl-3-oxo-butyric acid ethyl ester and 2-bromo-1-phenyl-ethanone in step a, and 3-amino-benzoic acid benzyl ester instead of 5-amino-isophthalic acid dibenzyl ester in step d. 1H NMR (300 MHz, d6-DMSO) 11.62 (1H, s), 9.64 (1H, s), 8.41 (1H, s), 8.14 (1H, s), 8.03 (1H, d), 7.94 (1H, d), 7.84 (3H, m), 7.60 (1H, m), 7.44 (3H, m), 7.34 (1H, s), 2.93 (2H, d), 1.98 (1H, br s), 1.67-1.22 (12H, m). The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 62.89; H, 7.51; N, 5.92%; C37H47N3O8.2.5 H2O requires: C, 62.87; H, 7.41; N, 5.94%.

reactant | 4-cycloheptyl-3-oxo-butyric acid ethyl ester | C(C)OC(CC(CC1CCCCCC1)=O)=O | C13H22O3
reactant | 2-bromo-1-naphthalen-2-yl-ethanone | BrCC(=O)C1=CC2=CC=CC=C2C=C1 | C12H9BrO
reactant | 2-bromo-1-phenyl-ethanone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 3-amino-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)N)=O | C14H13NO2
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | H2O | O | H2O
solvent | water dioxan | O.O1CCOCC1
product | 3-[(2-Cycloheptylmethyl-5-naphthalen-2-yl-1H-pyrrole-3-carbonyl)-amino]-benzoic Acid | C1(CCCCCC1)CC=1NC(=CC1C(=O)NC=1C=C(C(=O)O)C=CC1)C1=CC2=CC=CC=C2C=C1 | C30H30N2O3
